US08835432B2
A mixture of 1-chloro-3-fluoro-2-nitrobenzene (2.00 Kg, 11.4 mol), 2-aminobutyric acid (1.22 kg, 11.8 mol) and K2CO3 (1.58 Kg, 11.4 mol) in anhydrous DMSO (4.2 L) was heated at 80° C. for 16 h (after the reaction initiated, the internal temperature went up to 110° C.). At this time LC-MS analysis showed that the reaction was complete. After cooling to rt, the reaction mixture was carefully poured into water (10 L) with vigorous stirring. The aq. layer was washed with methyl tert-butyl ether (2×5 L) to remove organic impurities. The aq. layer was then acidified to pH ˜1.5 with cond HCl to give an orange solid. The orange solid was collected by filtration, washed with water (2×4 L) and air-dried to give 2-((3-chloro-2-nitrophenyl)amino)butanoic acid (2.85 Kg), which was used as such in the next step. 1H NMR (DMSO-d6) δ ppm 7.35 (t, J=8.3 Hz, 1H), 6.82-6.91 (m, 2H), 6.25 (d, J=7.6 Hz, 1H), 4.14 (td, J=7.4, 5.4 Hz, 1H), 3.4 (br. s., 1H), 1.74-1.92 (m, 2H), 0.88 (t, J=7.4 Hz, 3H). Mass Spectrum (ESI) m/z=259.2 (M+1).

reactant | 1-chloro-3-fluoro-2-nitrobenzene | 11.4 mol, 2.00 Kg | ClC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 2-aminobutyric acid | 11.8 mol, 1.22 kg | NC(C(=O)O)CC | C4H9NO2
reactant | K2CO3 | 11.4 mol, 1.58 Kg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 L | O | H2O
solvent | DMSO | 4.2 L | CS(=O)C | C2H6OS
product | 2-((3-chloro-2-nitrophenyl)amino)butanoic acid | 2.85 Kg | ClC=1C(=C(C=CC1)NC(C(=O)O)CC)[N+](=O)[O-] | C10H11ClN2O4
